US07947715B2
Step 5: Production of N-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]phenylmethyl]phthalimide
In a solution of 1.20 g of 3-[4-(chloromethyl)phenyl]-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole in 20 mL of N,N-dimethylformamide, 0.54 g of potassium phthalimide was added and stirred at room temperature for 20 hours. After the completion of the reaction, the reaction mixture was diluted with 100 mL of ethyl acetate, washed with water (50 mL×3) and then dehydrated with and dried over saturated sodium chloride aqueous solution and anhydrous magnesium sulfate in that order, and the solvent was distilled off under reduced pressure to obtain 1.50 g of the aimed product as white crystal.

reactant | 3-[4-(chloromethyl)phenyl]-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 1.20 g | ClCC1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H11Cl3F3NO
reactant | potassium phthalimide | 0.54 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]phenylmethyl]phthalimide | 1.50 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)C(F)(F)F | C25H15Cl2F3N2O3
